US05328643
Preparation of (2S 3S)-4-butyryloxy-3-methyl-2-butanol
3.76 g (0.02 tool) of (2S,3S)-2-methyl-3-tetrahydropyranyloxybutanol was dissolved in 30 ml of pyridine. Thereto was dropwise added 2.56 g (0.024 mol) of butyryl chloride at room temperature. The mixture was stirred for 30 minutes at room temperature. 2 N hydrochloric acid was added to the reaction mixture. The mixture was extracted with ether. The ether layer was washed with water, dried over MgSO4 and concentrated under reduced pressure. The residue was subjected to purification by chromatography to obtain 3.70 g (yield: 71.7%) of a desired compound. 3.40 g (0.013 mol) of the compound was dissolved in 50 ml of methanol. Thereto was added 10 g of Amberlist 15. The mixture was stirred overnight at room temperature. The Amberlist 15 was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was subjected to purification by silica gel column chromatography (developing solvent: chloroform) to obtain 1.51 g (yield: 66.8%) of the title compound.

reactant | (2S,3S)-2-methyl-3-tetrahydropyranyloxybutanol | 3.76 g | C[C@@H](CO)[C@H](C)OC1OCCCC1 | C10H20O3
reactant | butyryl chloride | 0.024 mol, 2.56 g | C(CCC)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (2S 3S)-4-butyryloxy-3-methyl-2-butanol | 3.70 g, yield: 71.7% | C(CCC)(=O)OC[C@@H]([C@H](C)O)C | C9H18O3
